US08138173B2
Thionyl chloride (17 mL) and DMF (17 mL) were combined and added dropwise to a mixture of 1-methyl-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one (9.78 g, 35.5 mmol) and dichloromethane (500 mL) at 0° C. The resulting suspension was stirred 5 minutes at 0° C. before warming to ambient temperature and stirring 2 hours. The suspension was concentrated under reduced pressure to afford a tan solid that was stirred in acetonitrile and filtered to obtain 8.8 g of 4-chloro-1-methyl-2-phenyl-2H-pyrazolo[3,4-c]quinoline as a tan solid, mp 208-209° C. MS (APCI) m/z 294 (M+H)+; Anal. calcd for C17H12ClN3.0.05 CH2Cl2: C, 68.72; H, 4.09; N, 14.10. Found: C, 68.85; H, 3.95; N, 14.09.

reactant | Thionyl chloride | 17 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 17 mL | CN(C)C=O | C3H7NO
reactant | 1-methyl-2-phenyl-2,5-dihydro-4H-pyrazolo[3,4-c]quinolin-4-one | 35.5 mmol, 9.78 g | CC=1N(N=C2C(NC=3C=CC=CC3C21)=O)C2=CC=CC=C2 | C17H13N3O
reactant | dichloromethane | 500 mL | ClCCl | CH2Cl2
solvent | acetonitrile | C(C)#N | C2H3N
product | 4-chloro-1-methyl-2-phenyl-2H-pyrazolo[3,4-c]quinoline | 8.8 g | ClC1=NC=2C=CC=CC2C=2C1=NN(C2C)C2=CC=CC=C2 | C17H12ClN3
